US07786132B2
N-[2-(5,5-Dimethyl-2,4-dioxo-imidazolidin-1-yl)-ethyl]-guanidine hydrochloride
1-(2-Amino-ethyl)-5,5-dimethyl-imidazolidine-2,4-dione (5.00 g., 29 mmol) and pyrazole-1-carboxamidine hydrochloride (4.28 g., 29 mmol) were added to MeCN (100 mL) and heated at reflux for 16 h. The mixture was cooled, the supernatent MeCN layer was decanted off, and the residual gum was washed with MeCN twice. The gum was dissolved in MeOH (100 mL) and concentrated to give the product as a foam. Yield=7.29 g., 100%.

reactant | 1-(2-Amino-ethyl)-5,5-dimethyl-imidazolidine-2,4-dione | 29 mmol, 5.00 g | NCCN1C(NC(C1(C)C)=O)=O | C7H13N3O2
reactant | pyrazole-1-carboxamidine hydrochloride | 29 mmol, 4.28 g | Cl.N1(N=CC=C1)C(=N)N
solvent | MeCN | 100 mL | CC#N | C2H3N
product | N-[2-(5,5-Dimethyl-2,4-dioxo-imidazolidin-1-yl)-ethyl]-guanidine hydrochloride | Cl.CC1(C(NC(N1CCNC(=N)N)=O)=O)C | InChI=1S/C8H15N5O2.ClH/c1-8(2)5(14)12-7(15)13(8)4-3-11-6(9)10;/h3-4H2,1-2H3,(H4,9,10,11)(H,12,14,15);1H
